US04620865
For a period of 60 minutes, hydrogen chloride gas was bubbled into a solution of 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester (12 grams, 0.07 mole) in 75 ml. of chloroform. The reaction mixture set up and nitrosyl chloride was bubbled into the reaction mixture for a period of five minutes. TLC indicated that starting material was still present, therefore, nitrosyl chloride was bubbled into the reaction mixture for an additional five minutes. The solution was heated on a steam bath for five minutes, then cooled and the solvent removed in vacuo, yielding 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester. The identity of the product was confirmed by NMR.

reactant | hydrogen chloride | Cl | ClH
reactant | 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 0.07 mole, 12 grams | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | ClC1=C(C=NN1C)C(=O)OCC | C7H9ClN2O2
